US07439237B2
(1e) (R)-2-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-1-ethoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidine-1-carboxylate
5.2 g (25.6 mmol) 4-nitrophenyl chloroformate were added under protective nitrogen gas to a mixture of 3.1 g (25.6 mmol) DMAP and 70 ml of pyridine and stirred for 1.5 hours at ambient temperature. Then 8.0 g (25.7 mmol) ethyl (R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-hydroxy-propionate, dissolved in 30 ml of pyridine, were slowly added dropwise at ambient temperature, the reaction mixture was stirred for 2 hours at ambient temperature, 6.3 g (25.6 mmol) 3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzdiazepin-2-one were added as a solid substance and the mixture was stirred overnight at ambient temperature. The reaction mixture was evaporated down under reduced pressure and distributed between 200 ml of ethyl acetate and 200 ml aqueous 10% citric acid solution. The organic phase washed twice with 200 ml 10% citric acid solution and five times with 150 ml 15% aqueous potassium carbonate solution, dried over sodium sulphate and evaporated down under reduced pressure. The residue was purified by column chromatography.

reactant | 4-nitrophenyl chloroformate | 25.6 mmol, 5.2 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | ethyl (R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-hydroxy-propionate | 25.7 mmol, 8.0 g | NC1=C(C=C(C=C1C(F)(F)F)C[C@H](C(=O)OCC)O)Cl | C12H13ClF3NO3
reactant | 3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzdiazepin-2-one | 25.6 mmol, 6.3 g | N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C14H19N3O
catalyst | DMAP | 25.6 mmol, 3.1 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
product | (R)-2-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-1-ethoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidine-1-carboxylate | O=C1N(CCC2=C(N1)C=CC=C2)C2CCN(CC2)C(=O)O[C@H](CC2=CC(=C(C(=C2)C(F)(F)F)N)Cl)C(=O)OCC | C27H30ClF3N4O5
